US06723716B1
3-Triphenylmethylthio-2-hydroxymethylpyridine
Into a 3 L round bottom flask equipped with mechanical stirrer and nitrogen purge was charged 3-mercapto-2-hydroxymethylpyridine hydrochloride (25.0 g, 0.141 mol, 1 eq.) followed by DMF (1.2 L) and to the cloudy suspension was charged finely powdered potassium carbonate (58.5 g, 0.423 mol, 3.0 eq.). To the resulting solution was charged triphenylmethylchloride (38.1 g, 0.137 mol, 0.97 eq) and the reactions mixture was allowed to stir at room temperature for three hours until TLC analysis showed reaction completion (ethyl acetate-hexanes). The DMF solution was poured into 3 L of 4:1 water/ethyl acetate. The aqueous layer was separated and extracted an additional time with ethyl acetate (200 mL). The organics were combined and hexane (150 mL) was added. The organic layer was washed with water (2×200 mL) then brine (2×200 mL). The organic layer was dried with sodium sulfate, filtered and evaporated in vacuo to give 48.63 g of the title compound as a brown oil which was taken directly on to the next reaction. 1H NMR (CDCl3) δ 5.05 (s, 2H); 7.1-7.4 (m, 16H); 8.20 (d, 1H); 8.58 (d, 1H).

reactant | 3-mercapto-2-hydroxymethylpyridine hydrochloride | 0.141 mol, 25.0 g, 1 eq. | Cl.SC=1C(=NC=CC1)CO
reactant | DMF | 1.2 L | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.423 mol, 58.5 g, 3.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylmethylchloride | 0.137 mol, 38.1 g, 0.97 eq | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | water ethyl acetate | 3 L | O.C(C)(=O)OCC
product | 3-Triphenylmethylthio-2-hydroxymethylpyridine | 48.63 g | C1(=CC=CC=C1)C(SC=1C(=NC=CC1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS
